US05859014
substituting 1-(4-chloro-2-methoxyphenyl)piperazine and 3-benzyl-1-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione gave 3-benzyl-1-{3-[4-(4-chloro-2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 194°-195° C.; Anal.: Calcd. for C26H31ClN4O3.(HCl)2 : C, 55.63; H, 6.03; N, 9.98%; Found: C, 55.82; H, 5.94; N, 9.85%;

reactant | 1-(4-chloro-2-methoxyphenyl)piperazine | ClC1=CC(=C(C=C1)N1CCNCC1)OC | C11H15ClN2O
reactant | 3-benzyl-1-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | C(C1=CC=CC=C1)N1C(N(C=C(C1=O)C)CCCCl)=O | C15H17ClN2O2
product | 3-benzyl-1-{3-[4-(4-chloro-2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.C(C1=CC=CC=C1)N1C(N(C=C(C1=O)C)CCCN1CCN(CC1)C1=C(C=C(C=C1)Cl)OC)=O | InChI=1S/C26H31ClN4O3.ClH/c1-20-18-30(26(33)31(25(20)32)19-21-7-4-3-5-8-21)12-6-11-28-13-15-29(16-14-28)23-10-9-22(27)17-24(23)34-2;/h3-5,7-10,17-18H,6,11-16,19H2,1-2H3;1H
